US08242104B2
A solution of impure racemic-cis-3-(2-chloro-acetoxy)-4-[2-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-piperidine-1-carboxylic acid tert-butyl ester (0.297 g) in dioxane (5 mL) was stirred with aqueous sodium hydroxide (1M, 4.2 mL) at room temperature for 16 h, followed by heating at 50° C. for approx. 24 h. The cooled mixture was extracted three times with ethyl acetate, the combined organic extracts were dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0-5% methanol in DCM) to give racemic-cis-3-Hydroxy-4-[2-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-piperidine-1-carboxylic acid tert-butyl ester (17 mg). LCMS RT=4.50, [M+H]+ 509

reactant | racemic-cis-3-(2-chloro-acetoxy)-4-[2-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.297 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=C(N2)C)C(C)C)C=C1)OC(CCl)=O | C29H37ClN6O5
reactant | sodium hydroxide | 1M, 4.2 mL | [OH-].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | racemic-cis-3-Hydroxy-4-[2-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-piperidine-1-carboxylic acid tert-butyl ester | 17 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=C(N2)C)C(C)C)C=C1)O | C27H36N6O4
